US06982260B1
6-Cyclopentyl-1,5-dimethoxy-cyclohexa-1,4-diene
To a solution of 2,5-dihydro-1,3-dimethoxybenzene (9.88 g, 70 mmol) in dry THF (150 mL) was added dropwise nBuLi solution (2.5 M, 42.4 mL) in hexane at −20° C. The orange colored reaction mixture was stirred for 0.5 hour at −20° C., then cyclopentyl bromide (20.9 g, 140 mmol) was added dropwise. The reaction mixture was stirred for 1 hour at −20° C. to 0° C. Excess nBuLi was destroyed cautiously with methanol. To the reaction mixture, 140 mL of cold water was added. The product was extracted with ethyl acetate (3×80 mL). The combined organic extract was washed with brine, dried over anhydrous sodium sulfate, and concentrated to give the title compound as light yellow liquid (14.12 g, 96.8%). 1H NMR: δ 1.0–2.4 (Complex, 9H), 2.7–2.94 (m, 3H), 3.52 (s, 6H, 2×OCH3), 4.70 (t, 2H).

reactant | 2,5-dihydro-1,3-dimethoxybenzene | 70 mmol, 9.88 g | COC=1CC(=CCC1)OC | C8H12O2
reactant | nBuLi | 2.5 M, 42.4 mL | [Li]CCCC
reactant | cyclopentyl bromide | 140 mmol, 20.9 g | C1(CCCC1)Br | C5H9Br
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 6-Cyclopentyl-1,5-dimethoxy-cyclohexa-1,4-diene | 14.12 g, 96.8% | C1(CCCC1)C1C(=CCC=C1OC)OC | C13H20O2
